US07323475B2
a) 4-Benzyloxy-1-hydroxy-isoquinoline-3-carboxylic acid butyl ester
A mixture of 1,4-dihydroxy-isoquinoline-3-carboxylic acid butyl ester (26.13 g, 100 mmol; Example D-20 b), PhCH2Br (18.2 ml, 150 mmol), MeONa (0.5 M in MeOH, 200 ml, 100 mmol) was stirred at ambient temperature for 48 h. Then the solvent was evaporated and EtOAc (100 ml) was added to the residue. The mixture was stirred vigorously for 10 min before it was filtered. The filtrate was washed with aqueous 2.5N NaOH (2×100 ml) and aqueous 2N HCl (1×100 ml). The organic phase was dried over MgSO4 and evaporated in vacuo. The residue was recrystallized from MeOH (500 ml)/water (300 ml). The resulting yellow solid was further purified by flash column chromatography on silica gel using hexanes:EtOAc:NEt3=65:30:5 as the eluent to give 10.8 g of a yellow solid. 2 g of this material were further purified by flash column chromatography on silica gel using hexanes:EtOAc:NEt3=75:20:5 as the eluent to give 1.57 g of the title compound as a slightly yellowish solid; 1H NMR (CDCl3): δ=8.88 (bs, 1H), 8.46 (d, 1H), 8.42 (d, 1H), 7.26 to 7.96 (m, 7H), 5.06 (s, 2H), 4.38 (t, 2H), 1.69 (m, 2H), 1.37 (m, 2H), 0.91 (t, 3H).

reactant | 1,4-dihydroxy-isoquinoline-3-carboxylic acid butyl ester | 100 mmol, 26.13 g | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)O | C14H15NO4
reactant | PhCH2Br | 150 mmol, 18.2 ml | C1(=CC=CC=C1)CBr | C7H7Br
reactant | MeONa | 100 mmol, 0.5 M, 200 ml | CO[Na]
product | 4-Benzyloxy-1-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 10.8 g | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)O | C21H21NO4
